US06822074B1
A solution of 2 g of cyclo(Arg(Pbf)-Gly-Asp(OBzl)-DPhe-NMeVal) in 26 ml of THF is mixed with 0.5 g of Pd/C (10%). Hydrogen is passed through for 2 hours, the mixture is freed of the catalyst and the solvent is removed in vacuo. The product crystallizes after addition of 32 ml of acetone, and is filtered off and dried. Cyclo(Arg(Pbf)-Gly-Asp-DPhe-NMeVal) is obtained in a yield of 83%.

reactant | cyclo(Arg(Pbf)-Gly-Asp(OBzl)-DPhe-NMeVal) | 2 g | N1[C@@H](CCCNC(NS(=O)(=O)C2=C(C)C(C)=C3OC(C)(C)CC3=C2C)=N)C(=O)NCC(=O)N[C@@H](CC(OCC2=CC=CC=C2)=O)C(=O)N[C@H](CC2=CC=CC=C2)C(=O)N([C@@H](C(C)C)C1=O)C | C47H62N8O10S
reactant | Hydrogen | [H][H] | H2
solvent | THF | 26 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | Cyclo(Arg(Pbf)-Gly-Asp-DPhe-NMeVal) | yield of 83% | N1[C@@H](CCCNC(NS(=O)(=O)C2=C(C)C(C)=C3OC(C)(C)CC3=C2C)=N)C(=O)NCC(=O)N[C@@H](CC(O)=O)C(=O)N[C@H](CC2=CC=CC=C2)C(=O)N([C@@H](C(C)C)C1=O)C | C40H56N8O10S
